US04093812
Add 0.1 g of glacial acetic acid and 4.0 g of phenylhydrazine to a solution of 5.0 g of 5-nitro-2-acetylfuran in 27 ml of dimethylformamide, the temperature rising slightly. Stir the resulting admixture for 1 hour without heating before clarifying with degased active charcoal and then adding 16.3 g of phosphorus oxychloride to the thus-prepared solution of 5-nitro-2-acetylfuran-phenylhydrazone while cooling with ice at from 10° to 15° C. Stir for a further hour at this temperature and then for 24 hours at room temperature. Pour the solution (containing 4-pyrazolylmethylenedimethylammonium salt) onto ice and water and then heat for 1.5 hours at 40° C before cooling in ice to obtain an 85% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde [m.p. 208° to 209° C (dimethylformamide/water)].

reactant | acetic acid | 0.1 g | C(C)(=O)O | C2H4O2
reactant | phenylhydrazine | 4.0 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 5-nitro-2-acetylfuran | 5.0 g | [N+](=O)([O-])C1=CC=C(O1)C(C)=O | C6H5NO4
reactant | dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | 85% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
